US09340527B2
1-(1-(6-(trans-4-tert-Butylcyclohexyloxy)naphthalen-2-yl)-2,2,2-trifluoroethyl)piperidine-4-carboxylic acid
To a solution of methyl 1-(1-(6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)-2,2,2-trifluoroethyl)piperidine-4-carboxylate (100 mg, 0.2 mmol) in MeOH (5 mL) was added NaOH (32 mg, 0.8 mmol, 4.0 eq) and H2O (0.5 mL). The reaction mixture was stirred at 85° C. for 2 h. Then the reaction was cooled to 0° C., and the pH of the solution was adjusted to 6 with 3 N HCl. The mixture was filtered, and the yellow solid was the desired product 1-(1-(6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)-2,2,2-trifluoroethyl)piperidine-4-carboxylic acid (78 mg, yield: 80%). ESI-MS (M+1)+: 492.1.

reactant | methyl 1-(1-(6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)-2,2,2-trifluoroethyl)piperidine-4-carboxylate | 0.2 mmol, 100 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(C(F)(F)F)N1CCC(CC1)C(=O)OC | C29H38F3NO3
reactant | NaOH | 0.8 mmol, 32 mg, 4.0 eq | [OH-].[Na+]
reactant | H2O | 0.5 mL | O | H2O
reactant | HCl | 3 N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(1-(6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)-2,2,2-trifluoroethyl)piperidine-4-carboxylic acid | 78 mg, yield: 80% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(C(F)(F)F)N1CCC(CC1)C(=O)O | C28H36F3NO3
